US09447046B2
Preparation 151a: 3-fluoro-N,4-dimethylaniline
To a suspension of 4-bromo-2-fluoro-1-methylbenzene (1.0 g, 5.3 mmol), KOAc (1.3 g, 13.2 mmol), and CuI (1.2 g, 6.4 mmol) in DMF (20 mL) was added methylamine (26.5 mL, 2.0M in THF, 53.0 mmol) at r.t. under N2. The reaction was stirred at 100° C. overnight in a sealed tube. The reaction mixture was filtered, diluted with water (50 mL), and extracted with EtOAc (50 mL×3). The organic layers were washed with ammonium hydroxide (50 mL×3) and brine (50 mL), dried (Na2SO4), and concentrated. The residue was purified by silica gel chromatography (PE:EtOAc=20:1) to give 310 mg (42%) of the title compound as a yellow oil. [M+H] Calc'd for C8H10FN, 140. Found, 140.

reactant | 4-bromo-2-fluoro-1-methylbenzene | 5.3 mmol, 1.0 g | BrC1=CC(=C(C=C1)C)F | C7H6BrF
reactant | KOAc | 13.2 mmol, 1.3 g | CC(=O)[O-].[K+]
reactant | methylamine | 53.0 mmol, 2.0M, 26.5 mL | CN | CH5N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 6.4 mmol, 1.2 g | [Cu]I
product | 3-fluoro-N,4-dimethylaniline | 310 mg, 42% | FC=1C=C(NC)C=CC1C | C8H10FN
